US04985585
Ethyl 4-[6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenylthio)-propoxy]-2-propylphenoxy]butyrate
To a stirring mixture of ethyl 4-(6-acetyl-3-hydroxy-2-propylphenoxy)butyrate (1.6 g), potassium iodide (0.5 g) and potassium carbonate (1.45 g) in acetone (30 ml) was added a solution of 4-(3-bromopropylthio)-2-hydroxy-3-propylphenyl -ethanone (1.9 g) in acetone (10 ml) dropwise with heating to reflux. After heating and refluxing with stirring for six hours, inorganic materials were separated by filtration and the filtrate was concentrated. The residue was separated and purified through silica-gel column chromatography (eluting with benzene:ethyl acetate=9:1) to give the title compound as crude crystals (2.1 g, 72.4%). This crystal was recrystallized from ethanol to colorless crystals, mp 65-66° C.

reactant | ethyl 4-(6-acetyl-3-hydroxy-2-propylphenoxy)butyrate | 1.6 g | C(C)(=O)C1=CC=C(C(=C1OCCCC(=O)OCC)CCC)O | C17H24O5
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | potassium carbonate | 1.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(3-bromopropylthio)-2-hydroxy-3-propylphenyl -ethanone | 1.9 g | BrCCCSC1=C(C(=C(C=C1)C(C)=O)O)CCC | C14H19BrO2S
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | Ethyl 4-[6-acetyl-3-[3-(4-acetyl-3-hydroxy-2-propylphenylthio)-propoxy]-2-propylphenoxy]butyrate | C(C)(=O)C1=CC=C(C(=C1OCCCC(=O)OCC)CCC)OCCCSC1=C(C(=C(C=C1)C(C)=O)O)CCC | C31H42O7S
